data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.200800064.json
{"doi": "10.1002_adsc.200800064", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Enantioselective organocatalytic epoxidation of alkenes using iminium salt catalysts with electrochemically generated persulfate or percarbonate as terminal oxidant", "mechanism_family": ["mediator_anodic", "other"], "electrochemical_role": "Anodic oxidation at boron-doped diamond electrode generates persulfate (from sulfate) or percarbonate (from carbonate) in situ; the peroxy species then acts as terminal oxidant on the iminium catalyst rather than electrons being transferred to the substrate directly", "key_intermediates": [{"name": "iminium cation (chiral dihydroisoquinolinium catalyst)", "smiles": null, "role": "reactive"}, {"name": "peroxy adduct of iminium / oxaziridinium precursor (XOO-iminium)", "smiles": null, "role": "transient"}, {"name": "diastereomeric oxaziridinium intermediates (pair)", "smiles": null, "role": "reactive"}, {"name": "persulfate (S2O8^2-)", "smiles": "[O-]S(=O)(=O)OOS(=O)(=O)[O-]", "role": "reactive"}, {"name": "percarbonate (CO4^2-)", "smiles": null, "role": "reactive"}, {"name": "hydrogen peroxide (equilibrium species)", "smiles": "OO", "role": "off_pathway"}], "electron_flow": "Anode oxidizes carbonate or sulfate in aqueous solution to percarbonate or persulfate; the peroxy anion adds to the chiral iminium catalyst to give a pair of diastereomeric oxaziridinium species, which then transfer oxygen to the alkene to deliver the epoxide and regenerate the iminium.", "rate_determining_step": null, "probe_reagents": [{"name": "hydrogen peroxide control (no carbonate/sulfate)", "smiles": "OO", "purpose": "intermediate_trap", "observation": "H2O2 alone does not induce epoxidation with iminium catalysts, indicating the active oxidant is the peroxy anion (percarbonate/persulfate), not H2O2 generated by equilibrium"}, {"name": "hydrodynamic voltammetry at Pt microelectrode", "smiles": null, "purpose": "redox_probe", "observation": "anodic limiting current is mass-transport controlled and proportional to peroxide concentration, used to monitor in situ peroxide generation"}, {"name": "commercial sodium percarbonate comparison", "smiles": null, "purpose": "other", "observation": "electrochemically generated persulfate gives ee comparable to commercial persulfate; electrochemically generated percarbonate gives good conversion but lower ee than persulfate, implying different diastereofacial selectivity in oxaziridinium formation"}], "evidence_types_used": ["intermediate_trap_other", "redox_probe", "kinetic_order"], "evidence_strength": "medium", "notes": "Authors propose two possible origins for the ee difference between percarbonate and persulfate: (i) different concentrations of free H2O2 in the equilibria (disfavored, since H2O2 alone is inactive), or (ii) different diastereofacial selectivity in the addition of the peroxy anion to the iminium, generating different ratios of diastereomeric oxaziridinium intermediates (favored explanation, Figure 2). Counter-ion role of the oxaziridinium is noted as unclear."}
